US03989698
The isatoic anhydride, acetic anhydride and pyridine were combined in a round bottomed flask equipped with a thermometer, reflux condenser and protected from atmospheric moisture by a drying tube. The reaction mixture was heated to 90°-100° C for 1 hour. The reaction mixture was cooled to room temperature and the hydroxylamine-hydrochloride was added all at once. The reaction mixture was stirred at room temperature for 24 hours. Most of the pyridine was removed from the reaction product by distillation under reduced pressure. The solid residue was slurried with 150 ml of cold water. The solid was isolated and crystallized from 200 ml of methanol to give 7.4 parts (70% yield) of 4-hydroxy-2-methylquinazoline-3-oxide. It is obvious from the above that part of the reaction product may exist in the tautomeric form.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydroxylamine-hydrochloride | Cl.NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-hydroxy-2-methylquinazoline-3-oxide | 70% yield | OC1=[N+](C(=NC2=CC=CC=C12)C)[O-] | C9H8N2O2
